US05336780
6-methyl-3-(3-nitro-phenyl)pyrazolo[5,1-c][1,2,4 ]triazole
500 mg (1.75 mmol) of 1-acetyl-6-methyl-3-(3-nitro-phenyl)pyrazolo[5,1-c][1,2,4]triazole are mixed with 7 ml of methanol and 3 ml of 2N sodium hydroxide solution and heated at boiling point until a clear solution is produced, then cooled down and acidified with 2N hydrochloric acid. The precipitate formed is filtered off under suction, washed neutral with water and then washed with a little methanol and a little ethyl acetate. After recrystallisation from DMSO, 400 mg (94%) of 6-methyl-3-(3-nitro-phenyl)pyrazolo[5,1-c][1,2,4]triazole with a m. pt. of 269°-275° C. (decomposes from 247° C.) are obtained.

reactant | 1-acetyl-6-methyl-3-(3-nitro-phenyl)pyrazolo[5,1-c][1,2,4]triazole | 1.75 mmol, 500 mg | C(C)(=O)N1N=C(N2C1=CC(=N2)C)C2=CC(=CC=C2)[N+](=O)[O-] | C13H11N5O3
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 7 ml | CO | CH4O
product | 6-methyl-3-(3-nitro-phenyl)pyrazolo[5,1-c][1,2,4 ]triazole | CC1=NN2C(N=NC2C2=CC(=CC=C2)[N+](=O)[O-])=C1 | C11H9N5O2
